US08980911B2
To a solution of 2,6-difluoro-4-(methoxycarbonyl)benzoic acid (1.6 gm, 7.4 mmol) in dichloromethane (25 mL), oxalyl chloride (2.33 gm, 18.5 mmol) was added at 0° C. followed by addition of dimethylformamide (1 mL). The resulting reaction mixture was stirred for about 3 hours at an ambient temperature. Solvents were evaporated to afford crude solid methyl 4-(chlorocarbonyl)-3,5-difluorobenzoate (1.6 gm, 94.11% Yield). The resulting product was used as such for next step.

reactant | 2,6-difluoro-4-(methoxycarbonyl)benzoic acid | 7.4 mmol, 1.6 gm | FC1=C(C(=O)O)C(=CC(=C1)C(=O)OC)F | C9H6F2O4
reactant | oxalyl chloride | 18.5 mmol, 2.33 gm | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | methyl 4-(chlorocarbonyl)-3,5-difluorobenzoate | 1.6 gm, 94.11% Yield | ClC(=O)C1=C(C=C(C(=O)OC)C=C1F)F | C9H5ClF2O3
